US07662974B2
1.5 mL of ethanol and 1.5 mL of THF were added to 0.11 g (2.94 mmol, 8 eq) of sodium borohydride. 0.16 g (1.47 mmol, 4 eq) of calcium chloride was added at 0° C., and the mixture was stirred at 0˜3° C. for 25 minutes. 0.25 g (0.37 mmol) of ethyl 3-{6-[(diisopropylamino)carbonyl]-2-naphthyl}-3-hydroxy-3-(1-trityl-1H-imidazol-4-yl)propanoate was added at 0° C. The mixture was stirred at 20˜23° C. for 8 hours and 15 minutes. 13 mL of water was added dropwise, and the mixture was stirred at 25° C. for 15 minutes. Crystals were filtered, and washed with water. Vacuum drying (50° C.) to a constant weight afforded 0.21 g of 6-[1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N,N-diisopropyl-2-naphthamide (yield 90%).

reactant | ethanol | 1.5 mL | C(C)O | C2H6O
reactant | sodium borohydride | 2.94 mmol, 0.11 g, 8 eq | [BH4-].[Na+]
reactant | calcium chloride | 1.47 mmol, 0.16 g, 4 eq | [Cl-].[Ca+2].[Cl-]
reactant | ethyl 3-{6-[(diisopropylamino)carbonyl]-2-naphthyl}-3-hydroxy-3-(1-trityl-1H-imidazol-4-yl)propanoate | 0.37 mmol, 0.25 g | C(C)(C)N(C(=O)C=1C=C2C=CC(=CC2=CC1)C(CC(=O)OCC)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(C)C | C44H45N3O4
solvent | water | 13 mL | O | H2O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 6-[1,3-dihydroxy-1-(1-trityl-1H-imidazol-4-yl)propyl]-N,N-diisopropyl-2-naphthamide | 0.21 g, yield 90% | OC(CCO)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)N(C(C)C)C(C)C | C42H43N3O3
